US06610692B1
Step A: 5-(t-Butoxycarbonylaminomethyl)-indole:
To 5-aminomethylindole (1.27 g, 8.68 mmol) dissoved in t-BuOH (80 mL) was added H2O (4.6 mL), Et3N (1.25 mL, 8.94 mmol) and (Boc)2O (3.33 g, 15.28 mmol) was then added portionwise. The reaction was stirred for 2.5 h, concentrated in vacuo, diluted with EtOAc (120 mL), washed with 5% Na2CO3 (1×20 mL), H2O (1×30 mL), and brine (1×30 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo to provide a pale orange oil. Purification by flash chromatography (25×150 mm column; gradient elution with EtOAc: hexanes, 1:5 to 1:3) afforded a yellow oil:

reactant | 5-aminomethylindole | 8.68 mmol, 1.27 g | NCC=1C=C2C=CNC2=CC1 | C9H10N2
reactant | H2O | 4.6 mL | O | H2O
reactant | Et3N | 8.94 mmol, 1.25 mL | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 15.28 mmol, 3.33 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-BuOH | 80 mL | CC(C)(C)O | C4H10O
product | 5-(t-Butoxycarbonylaminomethyl)-indole | C(C)(C)(C)OC(=O)NCC=1C=C2C=CNC2=CC1 | C14H18N2O2
